US09079930B2
Step D: 4-Hydroxy-2-(pyridazin-3-yl)pyrimidine-5-carboxylic acid (30-ie)
A mixture of crude Pyridazine-3-carboximidamide hydrochloride, 30-id, (4.2 g, 34.4 mmol), diethyl ethoxymethylenemalonate (6.5 mL, 34.4 mmol) and sodium methoxide (1.85 g, 41.3 mmol) in MeOH (100 mL) was refluxed overnight. The reaction mixture was added with KOH (3.8 g, 68.8 mmol) and refluxed for 4 h. The reaction was concentrated. The residue was dissolved with water (30 mL) and extracted with EtOAc. The aqueous layer was adjusted to pH=2 by addition of concentrated aq. HCl. The solids was filtered and rinsed with water and hexane to afford the title compound, 30-ie, (3 g, 40%). 1H NMR (300 MHz, CD3OD) δ14.7 (s, 1H), 9.50 (dd, J=1.6, 5.0 Hz), 8.57 (s, 1H), 8.51 (dd, J=1.6, 8.4 Hz, 1H), 8.01 (dd, J=5.0, 8.4 Hz, 1H), 3.44 (s, 1H). LC-MS: (M+H)+ 219.

reactant | Pyridazine-3-carboximidamide hydrochloride | Cl.N1=NC(=CC=C1)C(N)=N
reactant | diethyl ethoxymethylenemalonate | 34.4 mmol, 6.5 mL, 4.2 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | sodium methoxide | 41.3 mmol, 1.85 g | C[O-].[Na+]
reactant | KOH | 68.8 mmol, 3.8 g | [OH-].[K+]
solvent | MeOH | 100 mL | CO | CH4O
product | 4-Hydroxy-2-(pyridazin-3-yl)pyrimidine-5-carboxylic acid | OC1=NC(=NC=C1C(=O)O)C=1N=NC=CC1 | C9H6N4O3
